US08563749B2
Preparation of 7-fluoro-1,3-dihydro-2H-indol-2-one
7-Fluoro-3-(methylsulfanyl)-1,3-dihydro-2H-indol-2-one (270.5 g) was dissolved in water (2000 g) and admixed with sodium bisulfite (300 g). The mixture was heated to reflux, in the course of which it was vigorously stirred. After 2.25 h, the mixture was cooled to 25° C. and isolated by filtration on a suction filter. It was washed twice with water (500 g each time) and then dried under reduced pressure (<50 mbar, 50° C.). This gave 7-fluoro-1,3-dihydro-2H-indol-2-one as a white solid (206.3 g, 95.1% by weight, 95% yield).

reactant | 7-Fluoro-3-(methylsulfanyl)-1,3-dihydro-2H-indol-2-one | 270.5 g | FC=1C=CC=C2C(C(NC12)=O)SC | C9H8FNOS
reactant | sodium bisulfite | 300 g | S([O-])(O)=O.[Na+]
solvent | water | 2000 g | O | H2O
product | 7-fluoro-1,3-dihydro-2H-indol-2-one | 95% yield | FC=1C=CC=C2CC(NC12)=O | C8H6FNO
